US07846956B2
A mixture of 1.34 g of N′-(chloroacetyl)-2,2-dimethylpropanohydrazide and 6.6 g of polyphosphoric acid was stirred at 90° C. for 10 hours. The reaction mixture was cooled to room temperature. After 200 ml of water and then sodium bicarbonate were added, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain 1.12 g of 2-t-butyl-5-(chloromethyl)-1,3,4-oxadiazole.

reactant | N′-(chloroacetyl)-2,2-dimethylpropanohydrazide | 1.34 g | ClCC(=O)NNC(C(C)(C)C)=O | C7H13ClN2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 200 ml | O | H2O
product | 2-t-butyl-5-(chloromethyl)-1,3,4-oxadiazole | 1.12 g | C(C)(C)(C)C=1OC(=NN1)CCl | C7H11ClN2O
